US07691850B2
a) Methyl 7-bromo-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate
A solution of ethyl 2-mercaptoacetate (18.4 ml) in DMF (650 ml) was ice-cooled and treated with sodium hydride (6.78 g of a 60% dispersion in oil). After 1 hour methyl 6-amino-3,5-dibromopyridine-2-carboxylate (50 g) (T. R. Kelly and F. Lang, J. Org. Chem. 61, 1996, 4623-4633) was added and the mixture stirred for 16 hours at room temperature. The solution was partitioned between EtOAc and water (2 liters each), shaken, separated and the EtOAc along with solid that crystallised out washed with water (2×1 liter). The EtOAc was evaporated to low volume, solid filtered, washed with water and EtOAc and dried. The filtrate was separated, EtOAc dried and evaporated. The residue was taken up in AcOH and heated to 100° C. overnight, then evaporated. The white solid was triturated uder EtOAc, filtered off, washed with a little EtOAc and dried (Na2SO4). Combining the 2 batches of ester gave 33.35 g (70%). MS (APCl−) m/z 223 ([M−H]−, 100%).

reactant | ethyl 2-mercaptoacetate | 18.4 ml | SCC(=O)OCC | C4H8O2S
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 6-amino-3,5-dibromopyridine-2-carboxylate | 50 g | NC1=C(C=C(C(=N1)C(=O)OC)Br)Br | C7H6Br2N2O2
solvent | DMF | 650 ml | CN(C)C=O | C3H7NO
product | Methyl 7-bromo-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate | BrC1=CC=2SCC(NC2N=C1C(=O)OC)=O | C9H7BrN2O3S
